### PR TITLE
[Merged by Bors] - feat(Topology/ExtremallyDisconnected): prove Gleason's theorem

### PR DESCRIPTION
**Pull request by Multramate**
This work was done during the 2023 Copenhagen masterclass on formalisation of condensed mathematics. Numerous participants contributed.

Co-authored-by: Filippo A E Nuccio <filippo.nuccio@univ-st-etienne.fr>
Co-authored-by: Dagur Ásgeirsson <dagurtomas@gmail.com>
Co-authored-by: Nikolas Kuhn <nikolaskuhn@gmx.de>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by Multramate** [comment]
Unsure where to put the lemmas `mem_coe_of_mem`, ..., `image_coe_eq_restrict_image` - any ideas appreciated.

File: Mathlib/Topology/ExtremallyDisconnected.lean [hunk 1]
```diff
@@ -139,6 +136,132 @@ protected theorem CompactT2.Projective.extremallyDisconnected [CompactSpace X] [
...
+    rw [mem_closure_iff]
+    intro N N_open hN
+    rcases (G.mem_image ρ a).mp ha with ⟨e, he, rfl⟩
+    have nonempty : (G ∩ ρ⁻¹' N).Nonempty := ⟨e, mem_inter he <| mem_preimage.mpr hN⟩
+    have is_open : IsOpen <| G ∩ ρ⁻¹' N := hG.inter <| N_open.preimage ρ_cont
+    have ne_univ : ρ '' (G ∩ ρ⁻¹' N)ᶜ ≠ univ := zorn_subset _ (compl_ne_univ.mpr nonempty)
+                                                  is_open.isClosed_compl
+    rcases nonempty_compl.mpr ne_univ with ⟨x, hx⟩
+    have hx' : x ∈ (ρ '' Gᶜ)ᶜ := (compl_subset_compl.mpr <| image_subset ρ <|
+                                    compl_subset_compl.mpr <| G.inter_subset_left _) hx
```
Comment (j-loreaux) [inline Mathlib/Topology/ExtremallyDisconnected.lean:194]: The indentation here is a bit wonky (although I realize we don't have an updated style guide), but in any case you can make `simp` do some work for you.
```suggestion
    have hx' : x ∈ (ρ '' Gᶜ)ᶜ := fun h ↦ hx <| image_subset ρ (by simp) h
```

File: Mathlib/Topology/ExtremallyDisconnected.lean [hunk 2]
```diff
@@ -139,6 +136,132 @@ protected theorem CompactT2.Projective.extremallyDisconnected [CompactSpace X] [
...
+    rcases ρ_surj x with ⟨y, rfl⟩
+    have hy : y ∈ G ∩ ρ⁻¹' N := not_mem_compl_iff.mp <| (not_imp_not.mpr <| mem_image_of_mem ρ) <|
+                                  (mem_compl_iff _ _).mp hx
```
Comment (j-loreaux) [inline Mathlib/Topology/ExtremallyDisconnected.lean:197]: again, indentation and `simp`, but also `not_imp_not.mpr` is `mt` (i.e., modus tollens) and `(Set.mem_compl_iff _ _).mp` is `Set.mem_compl`
```suggestion
    have hy : y ∈ G ∩ ρ⁻¹' N := by simpa using mt (mem_image_of_mem ρ) <| mem_compl hx
```

File: Mathlib/Topology/ExtremallyDisconnected.lean [hunk 3]
```diff
@@ -139,6 +136,132 @@ protected theorem CompactT2.Projective.extremallyDisconnected [CompactSpace X] [
...
+  by_cases G_empty : G = ∅
+  · simpa only [G_empty, image_empty] using empty_subset _
+  · intro a ha
+    rw [mem_closure_iff]
+    intro N N_open hN
+    rcases (G.mem_image ρ a).mp ha with ⟨e, he, rfl⟩
+    have nonempty : (G ∩ ρ⁻¹' N).Nonempty := ⟨e, mem_inter he <| mem_preimage.mpr hN⟩
+    have is_open : IsOpen <| G ∩ ρ⁻¹' N := hG.inter <| N_open.preimage ρ_cont
+    have ne_univ : ρ '' (G ∩ ρ⁻¹' N)ᶜ ≠ univ := zorn_subset _ (compl_ne_univ.mpr nonempty)
+                                                  is_open.isClosed_compl
```
Comment (j-loreaux) [inline Mathlib/Topology/ExtremallyDisconnected.lean:191]:
```suggestion
    have ne_univ : ρ '' (G ∩ ρ⁻¹' N)ᶜ ≠ univ :=
      zorn_subset _ (compl_ne_univ.mpr nonempty) is_open.isClosed_compl
```

File: Mathlib/Topology/ExtremallyDisconnected.lean [hunk 4]
```diff
@@ -139,6 +136,132 @@ protected theorem CompactT2.Projective.extremallyDisconnected [CompactSpace X] [
...
+      exact (directedOn_iff_directed.mp C_chain.directedOn).mono_comp (· ⊇ ·) this
+    · rw [← image_inter_nonempty_iff, (C_sub c.mem).right, univ_inter]
+      exact singleton_nonempty a
+    all_goals exact (C_sub c.mem).left.inter <| (T1Space.t1 a).preimage π_cont
+  · rw [@iInter_of_empty _ _ <| not_nonempty_iff.mp hC, image_univ_of_surjective π_surj]
+
+/-- Gleason's Lemma 2.1: if $\rho$ is a continuous surjection from a topological space $E$ to a
+topological space $A$ satisfying the "Zorn subset condition", then $\rho(G)$ is contained in the
+closure of $A \setminus \rho(E \setminus G)}$ for any open set $G$ of $E$. -/
+lemma image_subset_closure_compl_image_compl_of_isOpen {ρ : E → A} (ρ_cont : Continuous ρ)
```
Comment (j-loreaux) [inline Mathlib/Topology/ExtremallyDisconnected.lean:179]: I realize you are eventually getting `E : Set D` in the final theorem, but here there is no reason to have `E` be anything other than a topological space, so you might as well shadow the variable (or else not declare `E : Set D` with `variable`, which is probably the best option). The same goes for `ExtremallyDisconnected.homeoCompactToT2` and `ExtremallyDisconnected.homeoCompactToT2_injective`

File: Mathlib/Topology/ExtremallyDisconnected.lean [hunk 5]
```diff
@@ -139,6 +136,132 @@ protected theorem CompactT2.Projective.extremallyDisconnected [CompactSpace X] [
...
+/-- Gleason's Lemma 2.3: a continuous surjection from a compact Hausdorff space to an extremally
+disconnected Hausdorff space satisfying the "Zorn subset condition" is a homeomorphism. -/
+noncomputable def ExtremallyDisconnected.homeoCompactToT2 [ExtremallyDisconnected A] [T2Space A]
+    [T2Space E] [CompactSpace E] {ρ : E → A} (ρ_cont : Continuous ρ) (ρ_surj : ρ.Surjective)
+    (zorn_subset : ∀ E₀ : Set E, E₀ ≠ univ → IsClosed E₀ → ρ '' E₀ ≠ univ) : E ≃ₜ A :=
+  ρ_cont.homeoOfEquivCompactToT2
+    (f := Equiv.ofBijective ρ ⟨homeoCompactToT2_injective ρ_cont ρ_surj zorn_subset, ρ_surj⟩)
+
+/-- Gleason's Theorem 2.5: in the category of compact spaces and continuous maps, the
+projective spaces are precisely the extremally disconnected spaces. -/
```
Comment (j-loreaux) [inline Mathlib/Topology/ExtremallyDisconnected.lean:239]: Can you also state this as an iff in a separate theorem?

**Review by j-loreaux — COMMENTED** [review]
This is just a first review, as I'm sure there will be more to say later. One thing it would be really nice to have is comments within the proofs sketching the idea (these can be interspersed throughout the proof, or just one comment at the top, whichever makes more sense).

Thanks for filling in this TODO!

File: Mathlib/Topology/ExtremallyDisconnected.lean [hunk 6]
```diff
@@ -139,8 +134,163 @@ protected theorem CompactT2.Projective.extremallyDisconnected [CompactSpace X] [
...
+
+/-- Lemma 2.4 in [Gleason, *Projective topological spaces*][gleason1958]:
+a continuous surjection $\pi$ from a compact space $D$ to a Fréchet space $A$ restricts to
+a compact subset $E$ of $D$, such that $\pi$ maps $E$ onto $A$ and satisfies the
+"Zorn subset condition", where $\pi(E_0) \ne A$ for any proper closed subset $E_0 \subsetneq E$.
+
+Proof. Apply Zorn's lemma on the closed subsets $E$ of $D$ such that $\pi(E) = A$. -/
+lemma exists_compact_surjective_zorn_subset [T1Space A] [CompactSpace D] {π : D → A}
+    (π_cont : Continuous π) (π_surj : π.Surjective) : ∃ E : Set D, CompactSpace E ∧ π '' E = univ ∧
+    ∀ E₀ : Set E, E₀ ≠ univ → IsClosed E₀ → E.restrict π '' E₀ ≠ univ := by
```
Comment (j-loreaux) [inline Mathlib/Topology/ExtremallyDisconnected.lean:152]: The statement of this lemma isn't very idiomatic in my opinion (because it's viewing a `E : Set D` as a type and then using it as a topological space). That's not to say this is *necessarily* the wrong way to go about it, because sometimes it is just the right thing to do. But I wonder whether this is nicer?
```lean
lemma exists_compact_surjective_zorn_subset [T1Space A] [CompactSpace D] {π : D → A}
    (π_cont : Continuous π) (π_surj : π.Surjective) : ∃ E : Type _, CompactSpace E ∧ ∃ ι : E → D, Embedding ι ∧ (π ∘ ι).Surjective ∧
    ∀ E₀ : Set E, E₀ ≠ univ → IsClosed E₀ → ¬ (π ∘ ι ∘ ((↑) : E₀ → E)).Surjective 
```
It's totally possible it's not, I'm just asking you to consider it, and if you feel it's worse, then don't implement it and just leave a comment here.

File: Mathlib/Topology/ExtremallyDisconnected.lean [hunk 7]
```diff
@@ -139,8 +134,163 @@ protected theorem CompactT2.Projective.extremallyDisconnected [CompactSpace X] [
...
+
+protected theorem CompactT2.projective_iff_extremallyDisconnnected [CompactSpace A] [T2Space A] :
+    Projective A ↔ ExtremallyDisconnected A :=
+  ⟨Projective.extremallyDisconnected, fun _ => ExtremallyDisconnected.projective⟩
+
+end
+
 -- Note: It might be possible to use Gleason for this instead
-/-- The sigma-type of extremally disconneted spaces is extremally disconnected -/
+/-- The sigma-type of extremally disconnected spaces is extremally disconnected. -/
```
Comment (j-loreaux) [inline Mathlib/Topology/ExtremallyDisconnected.lean:293]: Have you tried to implement the suggestion in this note?

**Review by j-loreaux — COMMENTED** [review]
I started a Zulip thread [here](https://leanprover.zulipchat.com/#narrow/stream/144837-PR-reviews/topic/.235634.20Gleason's.20theorem) about `Lean.Internal.coeM` that shows up for the monadic coercion lemmas. I think those are placed appropriately, but they may not be necessary if my alternative approach to Lemma 2.4 works.

File: Mathlib/Topology/ExtremallyDisconnected.lean [hunk 8]
```diff
@@ -140,12 +138,15 @@ end
 
 section
 
-variable {A B C D : Type u} {E : Set D}
-  [TopologicalSpace A] [TopologicalSpace B] [TopologicalSpace C] [TopologicalSpace D]
+variable {A B C D E : Type u} [TopologicalSpace A] [TopologicalSpace B] [TopologicalSpace C]
+  [TopologicalSpace D] [TopologicalSpace E]
```
[the remark this answers is not in the document]
Comment (Multramate) [reply Mathlib/Topology/ExtremallyDisconnected.lean:142]: Whoops, thank you!

File: Mathlib/Topology/ExtremallyDisconnected.lean (hunk 7 above)
Comment (Multramate) [reply Mathlib/Topology/ExtremallyDisconnected.lean:293]: No, I have not. Presumably Dagur wanted to say we can first prove the sigma type of projective spaces is projective, then reduce the same property for extremally disconnected spaces to this. I can add this,

Comment (Multramate) [reply Mathlib/Topology/ExtremallyDisconnected.lean:293]: ... which is not true unless we add the assumption of compact Hausdorff - is this desirable?

File: Mathlib/Topology/ExtremallyDisconnected.lean (hunk 6 above)
Comment (Multramate) [reply Mathlib/Topology/ExtremallyDisconnected.lean:152]: The statement of your lemma doesn't seem to compile for me: it says `E` needs to be a topological space before we can say it's compact, and we don't know this without having it live as a subset of `D`.

File: Mathlib/Topology/ExtremallyDisconnected.lean (hunk 8 above)
[the remark this answers is not in the document]
Comment (Multramate) [reply Mathlib/Topology/ExtremallyDisconnected.lean:142]: I think I want to keep both `D` and `E` for now, so that the resulting "Zorn subset" variables in `exists_compact_surjective_zorn_subset` is consistent with the variables used in the later lemmas.

**Comment by j-loreaux** [comment]
bors merge
